US08492372B2
1-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}PYRROLIDINE
A mixture of 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine (0.5 g, 1.63 mmol), pyrrolidine (2.0 ml, 24.0 mmol) and EtOH (4.0 ml) was heated in a micro wave oven at 130° C. for 30 min. The mixture was evaporated to dryness. The residue was chromathographed on a silica column using EtOAc/MeOH (10:1) as eluent, affording the title compound (0.37 g, 76%). The title compound (0.26 g) was converted into the hydrochloric acid salt and crystallized from EtOH/DEE. M.p. 199° C. 1H-NMR (400 MHz, MeOH): δ 7.49 (1H, dd, J 18 Hz, J 21.6 Hz), δ 7.40 (1H, d, J 1.6 Hz), δ 7.31 (1H, d, J 8 Hz), 5.29 (1H, t, J 4.4 Hz), δ 5.03 (2H, dd, J 56 Hz, 16 Hz), δ 3.1 (3H, s), 2.92 (2H, m), δ 2.70 (4H, m), δ 1.83 (4H, m).

reactant | 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine | 1.63 mmol, 0.5 g | BrCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C10H11BrO4S
reactant | pyrrolidine | 24.0 mmol, 2.0 ml | N1CCCC1 | C4H9N
solvent | EtOH | 4.0 ml | CCO | C2H6O
product | 1-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}PYRROLIDINE | 0.37 g, 76% | CS(=O)(=O)C=1C=CC2=C(OC(OC2)CN2CCCC2)C1 | C14H19NO4S
